* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from OR.ext - technology: scmos

.option scale=0.09u

M1000 a_n33_57# OR_in_2 vdd w_n46_51# CMOSP w=40 l=2
+  ad=320 pd=96 as=310 ps=144
M1001 OR_out a_n33_18# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=255 ps=132
M1002 a_n33_18# OR_in_1 a_n33_57# w_n46_51# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1003 a_n33_18# OR_in_2 gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1004 OR_out a_n33_18# vdd w_n46_51# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1005 gnd OR_in_1 a_n33_18# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 a_n33_18# OR_out 0.04fF
C1 OR_in_2 gnd 0.02fF
C2 w_n46_51# a_n33_18# 0.09fF
C3 w_n46_51# OR_in_1 0.06fF
C4 OR_in_1 a_n33_18# 0.19fF
C5 w_n46_51# OR_in_2 0.06fF
C6 OR_in_1 gnd 0.02fF
C7 OR_in_2 a_n33_18# 0.03fF
C8 w_n46_51# OR_out 0.02fF
C9 w_n46_51# vdd 0.11fF
C10 OR_in_2 OR_in_1 0.18fF
C11 gnd Gnd 0.15fF
C12 OR_out Gnd 0.02fF
C13 a_n33_18# Gnd 0.17fF
C14 vdd Gnd 0.07fF
C15 OR_in_1 Gnd 0.19fF
C16 OR_in_2 Gnd 0.16fF
C17 w_n46_51# Gnd 2.34fF

VD2 OR_in_1 gnd pulse 0 SUPPLY 0 50p 50p 1.25ns 2.5ns
VD1 OR_in_2 gnd pulse 0 SUPPLY 0 50p 50p 1ns 2ns

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3


let in1 = 'OR_in_1 + 4'
let in2 = 'OR_in_2 + 2'
let output = 'OR_out'
plot in1 in2 output

.endc

.end