* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from XOR.ext - technology: scmos

.option scale=0.09u

M1000 a_n48_n1# XOR_in_1 gnd Gnd CMOSN w=11 l=2
+  ad=90 pd=56 as=55 ps=32
M1001 XOR_in_2 XOR_in_1 XOR_out w_n61_17# CMOSP w=10 l=2
+  ad=60 pd=32 as=60 ps=32
M1002 XOR_in_2 a_n48_n1# XOR_out Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=30 ps=22
M1003 XOR_out XOR_in_2 XOR_in_1 w_n61_17# CMOSP w=10 l=2
+  ad=0 pd=0 as=50 ps=30
M1004 XOR_out XOR_in_2 a_n48_n1# Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 a_n48_n1# XOR_in_1 vdd w_n61_17# CMOSP w=22 l=2
+  ad=110 pd=54 as=110 ps=54
C0 XOR_out a_n48_n1# 0.05fF
C1 XOR_in_2 w_n61_17# 0.18fF
C2 XOR_in_2 a_n48_n1# 0.12fF
C3 w_n61_17# a_n48_n1# 0.02fF
C4 XOR_in_2 XOR_in_1 0.05fF
C5 w_n61_17# vdd 0.02fF
C6 w_n61_17# XOR_in_1 0.26fF
C7 XOR_in_2 XOR_out 0.35fF
C8 a_n48_n1# XOR_in_1 0.18fF
C9 w_n61_17# XOR_out 0.02fF
C10 gnd Gnd 0.01fF
C11 XOR_out Gnd 0.06fF
C12 XOR_in_2 Gnd 0.40fF
C13 a_n48_n1# Gnd 0.57fF
C14 vdd Gnd 0.01fF
C15 XOR_in_1 Gnd 0.11fF
C16 w_n61_17# Gnd 1.44fF

VD2 XOR_in_1 gnd pulse 0 SUPPLY 0 50p 50p 1.25ns 2.5ns
VD1 XOR_in_2 gnd pulse 0 SUPPLY 0 50p 50p 1ns 2ns

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3


let in1 = 'XOR_in_1 + 4'
let in2 = 'XOR_in_2 + 2'
let output = 'XOR_out'
plot in1 in2 output

.endc

.end
